US05157116
Preparation of METHYL 2,3,6-TRI-O-BENZYL-4-DEOXY-4-TRIFLUOROMETHYLSULFONYLOXYMETHYL-α-D-GLUCOPYRANOSIDE
To a solution of dry pyridine (0.45 mL) in methylene chloride (30 mL) cooled to -15° C. is added trifluoromethanesulfonic anhydride (0.84 mL). The mixture is stirred during 15 min at -10° C., then methyl 2,3,6-tri-O-benzyl-4-deoxy-4-hydroxymethyl-α-D-glucopyranoside (1.19 g, 2.49 mmol) in methylene chloride (5 mL) is added. The mixture is stirred during 1.5 h at -10° C. The reaction mixture is washed with water. The organic layer is dried over sodium sulfate, filtered and concentrated under reduced pressure so as to afford an oil which is the expected triflate methyl 2,3,6-tri-O-benzyl-4-deoxy-4-trifluoromethylsulfonyloxymethyl-α-D-glucopyranoside.

reactant | pyridine | 0.45 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.84 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 2,3,6-tri-O-benzyl-4-deoxy-4-hydroxymethyl-α-D-glucopyranoside | 2.49 mmol, 1.19 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)CO)COCC1=CC=CC=C1 | C29H34O6
reactant | triflate methyl 2,3,6-tri-O-benzyl-4-deoxy-4-trifluoromethylsulfonyloxymethyl-α-D-glucopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)COS(=O)(=O)C(F)(F)F)COCC1=CC=CC=C1.OS(=O)(=O)C(F)(F)F
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | METHYL 2,3,6-TRI-O-BENZYL-4-DEOXY-4-TRIFLUOROMETHYLSULFONYLOXYMETHYL-α-D-GLUCOPYRANOSIDE | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)COS(=O)(=O)C(F)(F)F)COCC1=CC=CC=C1 | C30H33F3O8S
